Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],2.06461101603
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],0.806214928018
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2],1.54737003241
[C:1][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[C:2]#[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.75983130805
[C:1].[C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][H:8],-3.5841181380800005
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:9](/[C:6]([O:5])([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],0.112891594579
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5],3.40557602356
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]\[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-4.54707529216
[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.12737779885
[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.86771908217
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.7427537812799998
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],-0.11761523533
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4]1[O:5][C:6]1([H:7])[H:8],-1.7496768426
[C:9][O:10][H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-5.81276404155
[C:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-10.0517690459
[C:1]#[C:2][O:3][C:4]#[C:5][O:6][H:7]>>[C:1][C:2][O:3].[C:4]#[C:5][O:6][H:7],1.4868498653100002
[C:1]#[C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8],-5.68247012396
[C:5]([H:6])[H:7].[H:1][C:2]([C:3](=[C:4])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.55693528148
[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:6]([H:7])#[C:8][O:9][H:10].[H:1][C:2]#[C:3][O:4][H:5],-0.261999134749
[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],2.86432043999
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])=[C:7][C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:10](/[C:8]([C:7]#[C:5][H:6])[H:9])[H:11],-0.443914292509
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.0880496399
[C:3]=[O:4].[O:1]([C:2][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[H:5]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.86413857931
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:3][H:4],6.0278550722
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.946206438069999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:5],1.7452302672599995
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.806422362109999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],3.90886458101
